* C:\GitHub\Monash2026\FYP\sims\Analogue Output\AnalogueOutput.asc
XU1 MP_01 N006 DAC_Reg_22V N005 N005 LT3080
V1 N005 0 24V
R1 N006 0 2.2Meg
C1 DAC_Reg_22V 0 2.2µ
R2 DAC_Reg_22V 0 20k
C2 N006 0 1µ
C3 N005 0 10µ
C11 DAC_Reg_22V 0 1µ
C12 DAC_Reg_22V 0 100n
R6 ALG_2_OUT N004 30k
R7 N004 0 10k
V4 DAC_2 0 0.005V
XU7 N001 N001 0 N003 N002 MP_02 MP_03 N002 LT1763-5
V7 N002 0 12V
C17 N002 0 4.7µ
C18 N002 0 100n
C19 N001 0 10µ
C20 N001 N003 10n
R12 DAC_Reg_5V N001 1
C21 DAC_Reg_5V 0 10µ
XU2 DAC_2 N004 DAC_Reg_22V 0 ALG_2_OUT OPAx196
* 24V -> 22V
.tran 50m
* 12V -> 5V
.lib LT1763.lib
.lib LT3080.sub
.lib OPAx196.lib
.backanno
.end
