* C:\Monash\Monash2026\FYP\sims\Digital Input\DigitalInputV2.asc
R1 v_divided vin 90.9k
R2 0 v_divided 10k
V1 vin 0 PULSE(0ms 24V 0 50m 50m)
V14 3.3V 0 3.3
V15 5V 0 5V
XU3 0 vin SMBJ5_0A
XU6 0 vin DI_BZT52C30
R13 vref_3v3 3.3V 240k
R14 0 vref_3v3 9.1k
R15 3.3V vout_3v3 10k
R16 vout_3v3 vref_3v3 300k
XU5 vref_3v3 v_divided 5V 0 vout_3v3 LM290x
C4 vref_3v3 0 1n
R3 vref_5v 3.3V 180k
R4 0 vref_5v 10k
R5 3.3V vout_5v 10k
R6 vout_5v vref_5v 180k
XU1 vref_5v v_divided 5V 0 vout_5v LM290x
C1 vref_5v 0 1n
R7 vref_12v 3.3V 39.2k
R8 0 vref_12v 10k
R9 3.3V vout_12v 10k
R10 vout_12v vref_12v 200k
XU2 vref_12v v_divided 5V 0 vout_12v LM290x
C2 vref_12v 0 1n
R11 vref_24v 3.3V 24k
R12 0 vref_24v 10k
R17 3.3V vout_24v 10k
R18 vout_24v vref_24v 160k
XU4 vref_24v v_divided 5V 0 vout_24v LM290x
C3 vref_24v 0 1n
.tran 100m
.lib BZT52C30.lib
.lib lm290x.lib
.lib smbj_thermal_05-07-25_LT_encrypted.lib
.backanno
.end
