* C:\Monash\Monash2026\FYP\sims\I2C\I2C_External_Single.asc
V1 N004 0 2.8V
R1 N005 N004 10k
R2 N001 N002 100k
V2 N001 0 5V
R3 N003 N011 4.7k
XU2 N003 N002 N001 AO3401A
Q1 N002 N005 0 0 Qmmbt3904tt1
R5 N003 N007 4.7k
R8 N006 NC_01 2.2k
V4 N006 0 3.3V
V5 N010 0 PULSE(0 10 0 1n 1n 1u 2u 100)
R4 N009 NC_02 2.2k
V6 N009 0 3.3V
V3 P001 0 PULSE(0 10 0 5n 5n 10u 20u 100)
M2 N008 P001 0 0 SI7658ADP
R6 N012 N011 22
R7 N008 N007 22
XU3 N012 N010 0 BSS138/ZTX
C1 N003 0 1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\socks\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\socks\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
* to I2C bus
.tran 0.0001
.lib MMBT3904TT1.lib
* to I2C bus
.lib AO3401A.mod
.lib BSS138.lib
.backanno
.end
